US04963543
To a solution of allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(ureidocarbonylmethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.23 g) in a mixture of tetrahydrofuran (11.5 ml) and water (2.3 ml) were added triphenylphosphine (23 mg), morpholine (0.12 ml), formic acid (0.05 ml), and tetrakis(triphenylphosphine)palladium(0) (26 mg) successively with stirring under ice-cooling. The mixture was stirred at the same temperature for 1 hour and at ambient temperature for 2 hours, and poured into a mixture of ethyl acetate (50 ml) and water (50 ml). The aqueous layer was separated and washed 2 times with ethyl acetate (50 ml). This aqueous layer was concentrated in vacuo to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin, "Diaion HP-20" (made by Mitsubishi Chemical Industries) (10 ml), eluting in turn with water, and a mixture of acetone and water (5:95 V/V). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(ureidocarbonylmethyl)oxymethyl}pyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.09 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(ureidocarbonylmethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.23 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCC(=O)NC(=O)N | C25H34N4O9S
reactant | triphenylphosphine | 23 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | morpholine | 0.12 ml | N1CCOCC1 | C4H9NO
reactant | formic acid | 0.05 ml | C(=O)O | CH2O2
solvent | tetrahydrofuran | 11.5 ml | O1CCCC1 | C4H8O
solvent | water | 2.3 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(ureidocarbonylmethyl)oxymethyl}pyrrolidin-4-yl]thio-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.09 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)COCC(=O)NC(=O)N)C | C18H26N4O7S
